US06812352B2
Preparation of a Supported Disubstitued Binaphthol
A mixture of 50 g (60 mmol) of Merrifield resin (polCH2Cl where pol=1-2% crosslinked polystyrene, 200-400 mesh beads), 2,2′-dihydroxy-1,1′-binaphthalene-3,3′-dicarboxylic acid (33.7 g), potassium carbonate (12.4 g) and DMF (dimethlyformamide) (350 ml) was heated at 90° C. with stirring for 8 hrs. The color of the resin changed from white to green-yellow. The mixture was diluted with water, filtered, washed with H2O, DMF, and acetone, and then thoroughly dried in the air to give the desired product. IR (KBr, cm−1): 1712 (vs), 1676 (vs).

reactant | 2,2′-dihydroxy-1,1′-binaphthalene-3,3′-dicarboxylic acid | 33.7 g | OC1=C(C2=CC=CC=C2C=C1C(=O)O)C1=C(C(=CC2=CC=CC=C12)C(=O)O)O | C22H14O6
reactant | potassium carbonate | 12.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 350 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Binaphthol | C=1(C(=CC=C2C=CC=CC12)O)C1=CC=CC2=CC=CC=C12 | C20H14O
